US04284644
7-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (3.5 g) and 1,4-dibromobutane (4.3 g.) were reacted in the same manner as Example 31, and the product was recrystallized from ethanol to give 7-(1-pyrrolidinyl)spiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (0.87 g.) as yellow needles melting at 101.5° C.

reactant | 7-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 3.5 g | NC1=CC=CC2=C1OC1(CC1)C2=O | C10H9NO2
reactant | 1,4-dibromobutane | 4.3 g | BrCCCCBr | C4H8Br2
product | 7-(1-pyrrolidinyl)spiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 0.87 g | N1(CCCC1)C1=CC=CC2=C1OC1(CC1)C2=O | C14H15NO2
